US06610685B2
c) 6-Bromo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene
A suspension of 3.350 g (0.0048 mol) bis-(triphenylphosphine)-palladium(II)dichloride and 1.90 g (0.010 mol) copper(I)iodide in 500 mL triethylamine was heated to reflux for 30 min. The mixture was cooled to room temperature and 190 g (0.534 mol) (4-bromo-2-iodo-phenyl)-carbamic acid methyl ester and 66.462 mL 5-chloro-1-pentyne (65 g, 0.634 mol) were added. The mixture was heated to reflux. When a temperature of 70° C. was reached, a strong exothermic reaction was observed leading to vigorous reflux! A thick suspension formed. Refluxing was continued for 15 min. The mixture was cooled to room temperature and diluted with 500 mL ethyl acetate. The solids were removed by filtration and the filter cake was washed with ca. 200 mL ethyl acetate. The filtrate was concentrated under aspirator vacuum, taken up in 500 mL ethyl acetate and washed successively with 10% citric acid solution, 10% sodium thiosulfate solution, 10% sodium bicarbonate solution and brine. The aqueous phases were re-extracted with ethyl acetate. The combined organic phases were dried over magnesium sulfate. To the solution was added 200 mL dimethylsulfoxide and the mixture concentrated under aspirator vacuum. Remaining ethyl acetate was removed under high vacuum. The resulting dimethylsulfoxide solution was added to a suspension of 70 g lithium hydroxide monohydrate in 120 mL water and 1000 mL dimethylsulfoxide. The resulting suspension was heated to 80° C. for 2 h. The mixture was cooled to room temperature and 1500 mL of ice water and 600 mL dichloromethane were added. The pH was adjusted to 6 by addition of 25% hydrochloric acid. The phases were separated and the organic phase was washed with half concentrated brine. The aqueous phases were extracted with 200 mL dichloromethane. The combined organic phases were diluted to a volume of 2000 mL with n-hexane. The resulting solution was filtered over 1 kg silica gel with hexane: dichloromethane=2: 1. The product fractions were combined and concentrated under aspirator vacuum, whereby crystallisation occurred to yield 95 g white crystals. (HPLC 100%). The mother liquor was evaporated to afford a second crop [7.2 g, 87% purity by HPLC) which was recrystallised to furnish a further 6 g (100% purity by HPLC) Total yield: 101 g (80%) of the title compound as white crystals, m.p.: 78.7-79.4° C.

reactant | (4-bromo-2-iodo-phenyl)-carbamic acid methyl ester | 0.534 mol, 190 g | COC(NC1=C(C=C(C=C1)Br)I)=O | C8H7BrINO2
reactant | 5-chloro-1-pentyne | 0.634 mol, 66.462 mL, 65 g | ClCCCC#C | C5H7Cl
reactant | triethylamine | 500 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis-(triphenylphosphine)-palladium(II)dichloride | 0.0048 mol, 3.350 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.010 mol, 1.90 g | [Cu]I
product | 6-Bromo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene | 95 g | BrC1=CC=2C=C3N(C2C=C1)CCC3 | C11H10BrN
